US07262220B2
c) 1-(5-Amino-2-methoxyphenyl)-3-(2-chloro-4,5-difluorobenzoyl)urea
5.8 g (25.9 mmol) of tin dichloride hydrate were added to 2.0 g (5.2 mmol) of 1-(2-chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea in 20 ml of ethyl acetate/methanol mixture at 70° C. After 1 hour, 30 ml of N-methyl-2-pyrrolidinone were added, and the mixture was stirred for a further 2 hours. After cooling, the reaction mixture was made basic and the resulting precipitate was filtered off with suction. The phases were separated. The organic phase was then washed three times with water, dried and concentrated under high vacuum. 1.2 g (67%) of the desired product were obtained.

reactant | tin dichloride hydrate | 25.9 mmol, 5.8 g | O.[Sn](Cl)Cl
reactant | 1-(2-chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea | 5.2 mmol, 2.0 g | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)[N+](=O)[O-])OC)C=C(C(=C1)F)F | C15H10ClF2N3O5
reactant | N-methyl-2-pyrrolidinone | 30 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate methanol | 20 ml | C(C)(=O)OCC.CO
product | 1-(5-Amino-2-methoxyphenyl)-3-(2-chloro-4,5-difluorobenzoyl)urea | 1.2 g, 67% | NC=1C=CC(=C(C1)NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O)OC | C15H12ClF2N3O3
